US06605629B1
To a mixture of methyl 3-[2-[3-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]propoxy]phenyl]propionate (400 mg), tetrahydrofuran (5 ml) and ethanol (5 ml) was added 5 ml of a 1 N aqueous solution of sodium hydroxide, and the resulting mixture was stirred at room temperature for 3 hours. There action mixture was poured into water (100 ml), and the mixture was neutralized with 1 N hydrochloric acid. The resulting solid precipitate was filtered, washed with water and air-dried to give crude crystals of 3-[2-[3-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]propoxy]phenyl]propionic acid. Recrystallization from tetrahydrofuran-hexane gave colorless prisms (260 mg, 54%). Melting point 184-185° C.

reactant | methyl 3-[2-[3-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]propoxy]phenyl]propionate | 400 mg | ClC1=CC=C(C=C1)C=1N=C(OC1CCCOC1=C(C=CC=C1)CCC(=O)OC)N1C(=NC=C1)C | C26H26ClN3O4
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-[2-[3-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]propoxy]phenyl]propionic acid | ClC1=CC=C(C=C1)C=1N=C(OC1CCCOC1=C(C=CC=C1)CCC(=O)O)N1C(=NC=C1)C | C25H24ClN3O4
